US05025036
To 0.80 g (2.2 mmol) of 4-[6-(2,3-dimethoxyphenyl)hexyloxy]benzoic acid methyl ester in 25 mL of methylene chloride stirred and cooled at -70° was added 8.0 mL of 1M boron tribromide in methylene chloride. The reaction mixture was stirred at -70° for 30 minutes and at -20° for 7 hours. Workup as in example 32 and recrystallization from ethyl acetate-hexane gave 0.30 g (42% yield), mp 170°-172° of 4-[6-(2,3-dihydroxyphenyl)hexyloxy]benzoic acid.

reactant | 4-[6-(2,3-dimethoxyphenyl)hexyloxy]benzoic acid methyl ester | 2.2 mmol, 0.80 g | COC(C1=CC=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OC)OC)=O | C22H28O5
reactant | boron tribromide | 1M, 8.0 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-[6-(2,3-dihydroxyphenyl)hexyloxy]benzoic acid | 42% yield | OC1=C(C=CC=C1O)CCCCCCOC1=CC=C(C(=O)O)C=C1 | C19H22O5
